US09108921B2
Step C: tert-butyl-4-((benzyloxy)methoxy)-4-(2-methyl-3-oxopropyl)piperidine-1-carboxylate (45D)
A mixture of tert-butyl-4-((benzyloxy)methoxy)-4-(3-hydroxy-2-methylpropyl)piperidine-1-carboxylate (1.97 g, 5.0 mmol) and Dess-martin reagent (3.18 g) was stirred in dichloromethane (60 mL) at r.t for 16 hrs. The reaction mixture was quenched by adding 25% sodium bicarbonate solution (100 mL), then the mixture was extracted by EtOAc (60 mL×2). The organic phase was combined and concentrated to give a residue, which was further purified by a standard method to give the product (0.88 g). LC-MS: m/z 392.5 (M+H)+

reactant | tert-butyl-4-((benzyloxy)methoxy)-4-(3-hydroxy-2-methylpropyl)piperidine-1-carboxylate | 5.0 mmol, 1.97 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC(CO)C)OCOCC1=CC=CC=C1 | C22H35NO5
reactant | Dess-martin reagent | 3.18 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | tert-butyl-4-((benzyloxy)methoxy)-4-(2-methyl-3-oxopropyl)piperidine-1-carboxylate | 0.88 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CC(C=O)C)OCOCC1=CC=CC=C1 | C22H33NO5
